US08445021B2
Production of 2DG can be carried out using any known method. For example, 2-DG can be prepared from various starting materials such as D-glucose, D-mannose, calcium D-gluconate, D-arabinose, D-glucosamine hydrochloride, N-acetyl glucosamine, chitin, and chitosan and carboxymethylchitosan. Preparation methods vary with various starting materials. For example, D-glucose can be methylated and brominated, followed by debromination and acid hydrolysis to yield β-2DG. Bergmann et. al. (1992) Berichte der Deutschen Chemischen Gesellschaft Jahrg. 55:158-72. D-glucose or D-mannose can be treated with bromine and acetyl, followed by a Fischer procedure (Fischer et al. (1914) (Berichte der Deutschen Chemischen Gesellschaft Jahrg. 47:196-210), to yield 3,4,6-tri-O-acetyl-1,5-anhydro-2-deoxy-D-arabino-hex-1-enitol, which is reacted with bromine, then reduced to remove the acetyl group, yielding 2DG (Arita et al. (1972) Bull. Chem. Soc. Japan 45:567-69). The 3,4,6-tri-O-acetyl-1,5-anhydro-2-deoxy-D-arabino-hex-1-enitol intermediate can be treated with N-bromosuccinimide, followed by hydrogenation and deacetylation to yield 2DG. Monneret and Choay (1981) Carbohydr. Res. 96:299-305. D-glucose can be reacted with ethanethiol and benzoyl chloride, followed by dehydrogenation, reduction, and deprotection to give 2-DG. Wong and Gray (1980) Carbohydr. Res. 80:87-98). Glucal can be deacetylated by reacting with sulfuric acid to give 2-DG with an overall yield of 35%. Overend et al. (1949) J. Chem. Soc., 1:2841-45. D-arabinose can be treated with nitromethane and an acetylating agent, followed by treatment with diluted sodium hydroxide, to yield a-2-DG. Sowden and Fischer (1947)J. Am. Chem. Soc. 69:1048-50. D-arabinose can be condensed, reduced with acetone, then reacted with trifluoromethanesulfonic anhydride, to yield a product that is then reacted with sodium cyanide, followed by hydrogenation, reduction, and hydrolysis, yielding 2-DG. Shiue et al. (1979) Carbohydr. Res. 74:323-26.

reactant | D-arabinose | O=C[C@@H](O)[C@H](O)[C@H](O)CO | C5H10O5
reactant | sodium hydroxide | [OH-].[Na+]
reactant | trifluoromethanesulfonic anhydride | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
reactant | sodium cyanide | [C-]#N.[Na+]
solvent | acetone | CC(=O)C | C3H6O
solvent | nitromethane | [N+](=O)([O-])C | CH3NO2
product | 2-DG | C(C=O)[C@H]([C@@H]([C@@H](CO)O)O)O | C6H12O5
